US07319101B2
c) Methyl 5-Isopropyl-3-methoxy-2-methoxymethoxy-benzoate
To a solution of 4-isopropyl-2-methoxy-1-methoxymethoxy-benzene (2.0 g, 9.51 mmol) in 35 mL dry THF cooled to 0° C., BuLi (9 mL of a 1.6 m solution in hexane, 1.5 eq.) was added dropwise via a syringe and the reaction mixture was stirred 2.5 h at 0° C. This solution was then slowly added to a solution of methyl chloroformate (9 g, 95.1 mmol, 10 eq.) in 10 mL dry THF at 0° C. The mixture was stirred 12 h at r.t. Saturated KHCO3 solution and EtOAc were then added to the solution and the phases were separated. The organic layer was washed twice with saturated NaCl solution, dried over MgSO4 and evaporated in vacuo. The crude product was purified using flash chromatography (silica gel, hexane EtOAc 9:1→6:1) to yield the title compound as a yellowish oil.

reactant | 4-isopropyl-2-methoxy-1-methoxymethoxy-benzene | 9.51 mmol, 2.0 g | C(C)(C)C1=CC(=C(C=C1)OCOC)OC | C12H18O3
reactant | BuLi | [Li]CCCC
reactant | methyl chloroformate | 95.1 mmol, 9 g, 10 eq. | ClC(=O)OC | C2H3ClO2
reactant | EtOAc | CCOC(=O)C | C4H8O2
solvent | THF | 35 mL | C1CCOC1 | C4H8O
solvent | hexane | CCCCCC | C6H14
solvent | THF | 10 mL | C1CCOC1 | C4H8O
product | Methyl 5-Isopropyl-3-methoxy-2-methoxymethoxy-benzoate | C(C)(C)C=1C=C(C(=C(C(=O)OC)C1)OCOC)OC | C14H20O5
